US08008340B2
(3-Phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone Hydrochloride (1ae)
Treat 1H-indole-2-carboxylic acid 3 (X═H, 1.0 mg, 6.21 mmol) with N-(tert-butoxycarbonyl)piperazine (1.10 equiv., 1.3 g, 6.83 mmol) as described in General Synthetic Procedure VIa to afford 4-(1H-indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester 8 (X═H, R4=piperazin-4-yl-1-carboxylic acid tert-butyl ester; 2.0 g, 99%) as a white solid, mp 205-206° C. 1H NMR (DMSO-d6) δ 11.6 (brs, 1H), 7.6 (d, 1H), 7.4 (d, 1H), 7.2 (t, 1H), 7.1 (t, 1H0, 6.8 (s, 1H), 3.8-3.7 (m, 4H), 3.5-3.4 (m, 4H), 1.4 (s, 9H); m/z=330 (M+1). Treat 4-(1H-indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester (329 g, 1.0 mmol) with phenyldisulfide (283 mg, 1.3 equiv., 1.3 mmol) as described in General Synthetic Procedure VIIa and then treat with trifluoroacetic acid (4 mL) in HOAc, to remove the Boc protecting group, to afford (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone. Dissolve (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone in EtOAc and treat with 1N HCl/Et2O to provide the title compound Iae (103 mg, 29%) as a tan solid, mp 240° C. (dec); m/z=338 (M+1).

reactant | (3-phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone | C1(=CC=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCNCC1 | C19H19N3OS
reactant | HCl Et2O | 1N | Cl.CCOCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-Phenylsulfanyl-1H-indol-2-yl)-piperazin-1-yl-methanone Hydrochloride | Cl.C1(=CC=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCNCC1 | InChI=1S/C19H19N3OS.ClH/c23-19(22-12-10-20-11-13-22)17-18(24-14-6-2-1-3-7-14)15-8-4-5-9-16(15)21-17;/h1-9,20-21H,10-13H2;1H
